US08039450B2
THP protection of 6-(4-bromo-3-(hydroxymethyl)phenoxy)nicotinaldehyde (2.4 g, 7.78 mmol) with 3,4-dihydro-2H-pyran (2.2 mL) catalyzed with (1S)-(+)-10-camphorsulfonic acid in CH2Cl2 (80 mL) at r.t. for 1 h provided the desired 6-(4-bromo-3-((tetrahydro-2H-pyran-2-yloxy)methyl)phenoxy)nicotinaldehyde as colorless oil (3.07 g, 7.8 mmol, yield 100%) after silica gel column purification (hexane:EtOAc=3:1, v/v).

reactant | 6-(4-bromo-3-(hydroxymethyl)phenoxy)nicotinaldehyde | 7.78 mmol, 2.4 g | BrC1=C(C=C(OC2=NC=C(C=O)C=C2)C=C1)CO | C13H10BrNO3
reactant | 3,4-dihydro-2H-pyran | 2.2 mL | O1CCCC=C1 | C5H8O
reactant | (1S)-(+)-10-camphorsulfonic acid | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 6-(4-bromo-3-((tetrahydro-2H-pyran-2-yloxy)methyl)phenoxy)nicotinaldehyde | 7.8 mmol, 3.07 g, yield 100% | BrC1=C(C=C(OC2=NC=C(C=O)C=C2)C=C1)COC1OCCCC1 | C18H18BrNO4
